US09034900B2
Step 3: 4-bromo-2-methyl-6H-furo[2,3-c]pyridin-7-one
To a mixture of 4-bromo-7-methoxy-2-methylfuro[2,3-c]pyridine (3.0 g, 12.4 mmol) in DCM (30 mL) was stirred at 0° C. under an atmosphere of nitrogen was added BBr3 (15.5 g, 62.0 mmol) dropwise. The mixture was stirred at 0° C. for 3 h. The mixture was concentrated in vacuo to afford the title compound (2.50 g, 88%). The material was immediately used in the next step without any further purification. LCMS (M+H)+=229.

reactant | 4-bromo-7-methoxy-2-methylfuro[2,3-c]pyridine | 12.4 mmol, 3.0 g | BrC1=C2C(=C(N=C1)OC)OC(=C2)C | C9H8BrNO2
reactant | BBr3 | 62.0 mmol, 15.5 g | B(Br)(Br)Br | BBr3
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-bromo-2-methyl-6H-furo[2,3-c]pyridin-7-one | 2.50 g, 88% | BrC=1C2=C(C(NC1)=O)OC(=C2)C | C8H6BrNO2
